US07030139B2
23F: 1-(cyclopropylmethyl)-2-[(5-ethoxy-2-pyridinyl)methyl]-5-(1-pyrrolidinyl-carbonyl)-1H-benzimidazole.
Following the general procedure 20E, 1-(cyclopropylmethyl)-2-[(5-ethoxy-2-pyridinyl)methyl]-1H-benzimidazole-5-carboxylic acid (80 mg, 0.228 mmol) was dissolved in DMF (2 mL) and HATU (104 mg, 0.274 mmol) was added followed by DIPEA (48 μl, 0.274 mmol), After being stirred for 10 min, pyrrolidine was added and the resulting mixture was stirred overnight. The crude residue obtained after work-up was purified using reverse phase preparative HPLC to give a TFA salt as white solids (42 mg, 37%). 1H NMR (400 MHz, CD3OD): δ 8.18 (d, J=2.8 Hz, 1H), 7.98 (d, J=9.2 Hz, 1H), 7.87 (s, 1H), 7.72 (dd, J=9.2 Hz, J=2.0 Hz, 1H), 7.52 (d, J=9.2 Hz, 1H), 7.46 (dd, J=9.2 Hz, J=2.8 Hz, 1H), 4.89 (s, 2H), 4.43 (d, J=6.8 Hz, 2H), 4.09 (q, J=7.2 Hz, 2H), 3.60 (t, J=7.6 Hz, 2H), 3.44 (t, J=7.6 Hz, 2H), 2.02–1.94 (m, 2H), 1.92–1.86 (m, 2H), 1.37 (t, J=7.2 Hz, 3H), 1.30–1.22 (m, 1H), 0.64–0.58 (m, 2H), 0.48–0.44 (m, 2H). MS (ESI) (M+H)+=405. Anal. Calcd for C24H28N4O2.0.8TFA.0.2H2O: C, 55.32; H, 5.12; N, 9.49. Found: C, 55.30; H, 4.91; N, 9.23.

reactant | 1-(cyclopropylmethyl)-2-[(5-ethoxy-2-pyridinyl)methyl]-1H-benzimidazole-5-carboxylic acid | 0.228 mmol, 80 mg | C1(CC1)CN1C(=NC2=C1C=CC(=C2)C(=O)O)CC2=NC=C(C=C2)OCC | C20H21N3O3
reactant | HATU | 0.274 mmol, 104 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.274 mmol, 48 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-(cyclopropylmethyl)-2-[(5-ethoxy-2-pyridinyl)methyl]-5-(1-pyrrolidinyl-carbonyl)-1H-benzimidazole | 42 mg, 37% | C1(CC1)CN1C(=NC2=C1C=CC(=C2)C(=O)N2CCCC2)CC2=NC=C(C=C2)OCC | C24H28N4O2
